US07214690B2
To a solution of (3R)-4-allyl-3-ethyl-3,4-dihydro-8-isopropoxy-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline (0.24 g, 0.63 mmol) and 0.1 mL Et3N in 3 mL EtOAc was added 10% Pd on carbon (0.08 g) and the mixture was vigorously stirred under H2 atmosphere for 1 h. The reaction mixture was filtered through Celite and concentrated to give 0.23 g (96% yield) of (3R)-3-ethyl-3,4-dihydro-8-isopropoxy-4-propyl-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline, a yellow oil. Rf0.7 (9:1 hexane:EtOAc); 1H NMR (400 MHz, CDCl3) δ 7.41 (d, 1H, J=9.1), 7.22 (d, 1H, J=9.1), 7.17 (s, 1H), 5.47 (septet, 1H, J=6.2), 4.30 (dd, ABX, 1H, J=10.5, 1.6), 3.86 (dd, ABX, 1H, J=10.5, 2.5), 3.47–3.35 (m, 1H), 3.23–3.11 (m, 2H), 1.70–1.55 (m, 4H), 1.38 (d, 3H, J=6.2), 1.37 (d, 3H, J=6.2), 1.02–0.91 (m, 6H).

reactant | (3R)-4-allyl-3-ethyl-3,4-dihydro-8-isopropoxy-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | 0.63 mmol, 0.24 g | C(C=C)N1[C@@H](COC2=C3C(=CC(=NC3=CC=C21)OC(C)C)C(F)(F)F)CC | C20H23F3N2O2
reactant | Et3N | 0.1 mL | CCN(CC)CC | C6H15N
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
catalyst | Pd on carbon | 0.08 g | [Pd] | Pd
product | (3R)-3-ethyl-3,4-dihydro-8-isopropoxy-4-propyl-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | 0.23 g, 96% yield | C(C)[C@H]1N(C=2C(=C3C(=CC(=NC3=CC2)OC(C)C)C(F)(F)F)OC1)CCC | C20H25F3N2O2
